US04258187
A mixture of 3.65 g (0.01 mole) of 1-(2-benzoyl-4-chlorophenyl)-1-methyl-3-phenylurea and 2.09 g (0.03 mole) of hydroxylamine hydrochloride in 50 ml of ethanol was stirred and refluxed for 5 days. The reaction mixture was cooled, and the suspended solid was collected on a filter, washed with alcohol, and dried in air to give 1.80 g (63%) of 6-chloro-1-methyl-4-phenyl-2-(1H)-quinazolinone as yellow crystals, mp 289°-291°.

reactant | 1-(2-benzoyl-4-chlorophenyl)-1-methyl-3-phenylurea | 0.01 mole, 3.65 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N(C(=O)NC1=CC=CC=C1)C | C21H17ClN2O2
reactant | hydroxylamine hydrochloride | 0.03 mole, 2.09 g | Cl.NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-chloro-1-methyl-4-phenyl-2-(1H)-quinazolinone | 1.80 g, 63% | ClC=1C=C2C(=NC(N(C2=CC1)C)=O)C1=CC=CC=C1 | C15H11ClN2O
